US07598232B2
(E)-2,4,6-trimethoxystyryl-3-(3-carboxypropylamino)-4-methoxybenzylsulfone
A solution of methyl-4-bromobutyrate (40 mmol) and (E)-2,4,6-trimethoxystyryl-3-amino-4-methoxybenzylsulfone (10 mmol) was reacted according to General Method B. The product obtained was purified by recrystallization from acetone. (m.p. 86-88° C.)

reactant | methyl-4-bromobutyrate | 40 mmol | COC(CCCBr)=O | C5H9BrO2
reactant | (E)-2,4,6-trimethoxystyryl-3-amino-4-methoxybenzylsulfone | 10 mmol | COC1=C(/C=C/C(C2=CC(=C(C=C2)OC)N)S(=O)(=O)C(C2=CC(=C(C=C2)OC)N)\C=C\C2=C(C=C(C=C2OC)OC)OC)C(=CC(=C1)OC)OC | C38H44N2O10S
product | (E)-2,4,6-trimethoxystyryl-3-(3-carboxypropylamino)-4-methoxybenzylsulfone | COC1=C(/C=C/C(C2=CC(=C(C=C2)OC)NCCCC(=O)O)S(=O)(=O)C(C2=CC(=C(C=C2)OC)NCCCC(=O)O)\C=C\C2=C(C=C(C=C2OC)OC)OC)C(=CC(=C1)OC)OC | C46H56N2O14S
